US06930104B2
1-(4-Ethoxy-3-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol
2-Methyl-1,2,3,4-tetrahydro-4-quinolinol (7.1 g, 43.5 mmol) synthesized in the published manner was dissolved in pyridine (50 ml), followed by addition of 4-ethoxy-3-methoxybenzoyl chloride prepared from 4-ethoxy-3-methoxybenzoic acid (9.2 g, 46.4 mmol). After stirring at room temperature for 16 hours, the reaction mixture was concentrated and extracted by addition of ethyl acetate and water. After the organic layer was dried and concentrated, the residue was applied to silica gel column chromatography (developing solvent: ethyl acetate/hexane=1/1) and the resulting eluate was recrystallized from ethyl acetate-hexane to give the titled compound (4.4 g, yield: 30%) as a white crystal.

reactant | 2-Methyl-1,2,3,4-tetrahydro-4-quinolinol | 43.5 mmol, 7.1 g | CC1NC2=CC=CC=C2C(C1)O | C10H13NO
reactant | 4-ethoxy-3-methoxybenzoyl chloride | C(C)OC1=C(C=C(C(=O)Cl)C=C1)OC | C10H11ClO3
reactant | 4-ethoxy-3-methoxybenzoic acid | 46.4 mmol, 9.2 g | C(C)OC1=C(C=C(C(=O)O)C=C1)OC | C10H12O4
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-Ethoxy-3-methoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 4.4 g, yield: 30% | C(C)OC1=C(C=C(C(=O)N2C(CC(C3=CC=CC=C23)O)C)C=C1)OC | C20H23NO4
